US08802674B2
A mixture of 100 mg 4-(5-fluoro-4-(methylamino)pyrimidin-2-ylamino)-3-methoxybenzoic acid, 47 μL morpholine, 205 mg HATU, 188 mL diisopropylethylamine in 1 mL of dimethylformamide was stirred at room temperature overnight. The reaction was checked by LCMS and found to be complete. The reaction was diluted with EtOAc, and the organic layer washed with saturated NaHCO3 and brine. The organic layer was concentrated and purified by preparative reverse phase HPLC to yield 12 mg of (4-(5-fluoro-4-(methylamino)pyrimidin-2-ylamino)-3-methoxyphenyl)(morpholino)methanone.

reactant | 4-(5-fluoro-4-(methylamino)pyrimidin-2-ylamino)-3-methoxybenzoic acid | 100 mg | FC=1C(=NC(=NC1)NC1=C(C=C(C(=O)O)C=C1)OC)NC | C13H13FN4O3
reactant | morpholine | 47 μL | N1CCOCC1 | C4H9NO
reactant | HATU | 205 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 188 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (4-(5-fluoro-4-(methylamino)pyrimidin-2-ylamino)-3-methoxyphenyl)(morpholino)methanone | 12 mg | FC=1C(=NC(=NC1)NC1=C(C=C(C=C1)C(=O)N1CCOCC1)OC)NC | C17H20FN5O3
